US07157487B2
In THF (20 ml) was dissolved 3-fluoro-2-methylaniline (0.57 ml, 5.0 mmol). To the resulting solution was added thiophosgene (990 mg, 5.0 mmol) under stirring at room temperature. After the reaction mixture was stirred for 4 hours at room temperature, methyl (4-amino-2-fluoro-3-hydroxyphenyl)acetate (996 mg, 5.0 mmol) was added thereto. The resulting mixture was stirred further at room temperature for 2 days. Mercuric oxide (yellow) (1.08 g, 5.0 mmol) was added and the mixture was stirred at 70° C. for 4.5 hours. After cooling to room temperature, the reaction mixture was filtered through Celite and washed with methanol. The filtrate was distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column, whereby from n-hexane/ethyl acetate (4/1) eluate fractions, methyl (2-(3-fluoro-2-methylphenylamino)-7-fluoro-6-benzoxazolyl)acetate (1.21 g, 73%) was obtained as a colorless solid.

reactant | 3-fluoro-2-methylaniline | 5.0 mmol, 0.57 ml | FC=1C(=C(N)C=CC1)C | C7H8FN
reactant | thiophosgene | 5.0 mmol, 990 mg | C(=S)(Cl)Cl | CCl2S
reactant | methyl (4-amino-2-fluoro-3-hydroxyphenyl)acetate | 5.0 mmol, 996 mg | NC1=C(C(=C(C=C1)CC(=O)OC)F)O | C9H10FNO3
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | methyl (2-(3-fluoro-2-methylphenylamino)-7-fluoro-6-benzoxazolyl)acetate | 1.21 g, 73% | FC=1C(=C(C=CC1)NC=1OC2=C(N1)C=CC(=C2F)CC(=O)OC)C | C17H14F2N2O3
